US07696184B2
(R)-2-Amino-4-(3-bromo-5-methyl-4-pentyloxy-phenyl)-2-methyl-butan-1-ol Hydrotriflate
To a solution of (R)-4-[2-(3-Bromo-5-methyl-4-pentyloxy-phenyl)-ethyl]-4-methyl-oxazolidin-2-one (58 mg, 0.15 mmol) in ethanol (2 ml) is added a solution of LiOH-hydrate (180 mg, 4.28 mmol) in water (1.5 ml). The mixture is stirred at 90° C. for 2 h. After cooling to RT and extraction with AcOEt (2×20 ml), the organic phase is dried using MgSO4. Evaporation of solvent is followed by reverse phase preparative HPLC (20×250 mm, RP18: 10 μm) using acetonitrile/water/trifluoroacetic acid=900/100/1 as eluent to yield the title compound as white solid. MS (ESI+): m/z=358/360 (MH+).

reactant | (R)-4-[2-(3-Bromo-5-methyl-4-pentyloxy-phenyl)-ethyl]-4-methyl-oxazolidin-2-one | 0.15 mmol, 58 mg | BrC=1C=C(C=C(C1OCCCCC)C)CC[C@]1(NC(OC1)=O)C | C18H26BrNO3
reactant | LiOH-hydrate | 4.28 mmol, 180 mg | O[Li].O
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 1.5 ml | O | H2O
product | (R)-2-Amino-4-(3-bromo-5-methyl-4-pentyloxy-phenyl)-2-methyl-butan-1-ol | N[C@@](CO)(CCC1=CC(=C(C(=C1)C)OCCCCC)Br)C | C17H28BrNO2
